US08859553B2
Step 1. 4-(4-Methyl-1H-imidazol-1-yl)-2-nitroaniline
A suspension of 4-bromo-2-nitroaniline (4.34 g, 20 mmol), 4-methylimidazole (1.97 g, 24 mmol), K2CO3 (3.04 g, 22 mmol), CuI (0.57 g, 3 mmol) and 8-hydroxyquinoline (0.44 g, 3 mmol) in 20 mL DMSO was stirred at 120° C. in a sealed tube under Ar2 for 29 hrs. The mixture was cooled down to rt and 28% aqueous ammonia (10 mL) was added and then H2O and EtOAc were added. The aqueous layer was extracted with EtOAc (80 mL×3) and the organic layer was washed with brine, dried with Na2SO4, after filtration, the filtrate was evaporated in vacuo and the residue was washed with PE/EtOAc to give 2.47 g product as a red solid (56.6%). 1H NMR (300 MHz, DMSO-d6) δ: 8.03 (1H, d, J=2.1 Hz), 7.64-7.68 (1H, dd, J=2.1 and 9.0 Hz), 7.53 (2H, brs), 7.10-7.13 (1H, d, J=9.0 Hz), 2.12 (3H, s). LCMS: m/z [M+H]+ 219.0895.

reactant | 4-bromo-2-nitroaniline | 20 mmol, 4.34 g | BrC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5BrN2O2
reactant | 4-methylimidazole | 24 mmol, 1.97 g | CC=1N=CNC1 | C4H6N2
reactant | K2CO3 | 22 mmol, 3.04 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 8-hydroxyquinoline | 3 mmol, 0.44 g | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | ammonia | 10 mL | N | H3N
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
catalyst | CuI | 3 mmol, 0.57 g | [Cu]I
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | 4-(4-Methyl-1H-imidazol-1-yl)-2-nitroaniline | 2.47 g, 56.6% | CC=1N=CN(C1)C1=CC(=C(N)C=C1)[N+](=O)[O-] | C10H10N4O2
